US09353114B2
Preparation of 3-(R)-(4-Methylphthalimido)piperidine
In a clean round bottom flask, 100 ml acetic acid, 50 gms 3-(R)-aminopiperidine dihydrochloride & 56.5 gms of 4-methylphthalic anhydride were charged. The reaction mass was refluxed & then cooled to 25-30° C. Acetone was added to the reaction mass & obtained solid was filtered. Acetone was added to the solid obtained & refluxed to get uniform slurry. The reaction mass was cooled to 25-30° C. & filtered. Wet wt 70 gms. In another round bottom flask, methylene dichloride, wet cake and water were charged. The reaction mass was basified & layers were separated. The organic layer was washed with water & concentrated upto half volume. Diisopropyl ether was added to the reaction mass to obtain the product. Dry wt 40 gms, HPLC purity=85%

reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | 3-(R)-aminopiperidine dihydrochloride | 50 gms | Cl.Cl.N[C@H]1CNCCC1
reactant | 4-methylphthalic anhydride | 56.5 gms | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
solvent | Acetone | CC(=O)C | C3H6O
product | 3-(R)-(4-Methylphthalimido)piperidine | CC=1C=C2C(C(=O)N(C2=O)[C@H]2CNCCC2)=CC1 | C14H16N2O2
